US09108944B2
Sodium cyanide (395 mg, 8.06 mmol) was added to a mixture of 4-(pyridin-4-yloxy)aniline (500 mg, 2.69 mmol) and cyclobutanone (376 mg, 5.37 mmol) in AcOH (99%, 6 mL) in a microwave vial. The reaction mixture was irradiated with microwaves (Biotage) at 120° C. for 30 min. The slightly yellowish solution was concentrated to dryness. The residue was diluted with water and extracted with EtOAc (2×). The combined organic layers were dried over MgSO4 and concentrated to dryness to afford 463 mg (65%) of 1-(4-(pyridin-4-yloxy)phenylamino)-cyclobutanecarbonitrile as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.46-8.38 (m, 2H), 7.02-6.94 (m, 2H), 6.79 (m, 2H), 6.72-6.64 (m, 2H), 2.86-2.74 (m, 2H), 2.46-2.34 (m, 2H), 2.22 (m, 2H)

reactant | Sodium cyanide | 8.06 mmol, 395 mg | [C-]#N.[Na+]
reactant | 4-(pyridin-4-yloxy)aniline | 2.69 mmol, 500 mg | N1=CC=C(C=C1)OC1=CC=C(N)C=C1 | C11H10N2O
reactant | cyclobutanone | 5.37 mmol, 376 mg | C1(CCC1)=O | C4H6O
solvent | AcOH | 6 mL | CC(=O)O | C2H4O2
product | 1-(4-(pyridin-4-yloxy)phenylamino)-cyclobutanecarbonitrile | 463 mg, 65% | N1=CC=C(C=C1)OC1=CC=C(C=C1)NC1(CCC1)C#N | C16H15N3O
